US06884868B1
A mixture of 1-acetyl-4-[4-(4-cyclohexyloxypiperidin-1-yl)phenyl]piperazine (0.37 g) and 10% sodium hydroxide (1.9 ml) in ethyl alcohol (7.4 ml) was refluxed for 10 hours. The reaction mixture was evaporated under reduced pressure. The residue was washed with water, and dried to give 1-[4-(4-cyclohexyloxypiperidin-1-yl)phenyl]piperazine (0.32 g).

reactant | 1-acetyl-4-[4-(4-cyclohexyloxypiperidin-1-yl)phenyl]piperazine | 0.37 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(CC1)OC1CCCCC1 | C23H35N3O2
reactant | sodium hydroxide | 1.9 ml | [OH-].[Na+]
solvent | ethyl alcohol | 7.4 ml | C(C)O | C2H6O
product | 1-[4-(4-cyclohexyloxypiperidin-1-yl)phenyl]piperazine | 0.32 g | C1(CCCCC1)OC1CCN(CC1)C1=CC=C(C=C1)N1CCNCC1 | C21H33N3O
